US07144899B2
Step E: 3-Cyclopropyl-D-alanyl-N-[5-fluoro-2-{1H-1,2,4-triazol-1-yl}benzyl]-L-prolinamide
A solution of N-{tert-butoxycarbonyl}-3-cyclopropyl-D-alanyl-N-[5-fluoro-2-{1H-1,2,4-triazol-1-yl }benzyl]-L-prolinamide (35 mg, 0.069 mmol) in EtOAc (1 mL) was treated with 1 mL of 3.5N HCl/EtOAc at 0° C. for 1 h and at room temperature for 3 h. The solvent was removed under reduced pressure and the residue triturated with EtOAc to give 22 mg of the title compound as the hydrochloride salt. 1H NMR (400 MHz, CDCl3): d 8.9 (s, 1H), 8.73 (br s, 1H), 8.35 (br, 2H), 8.23 (s, 1H), 7.48–7.51 (m, 1H), 7.24–7.29 (m, 2H), 4.27–4.30 (d, J=8.52 Hz, 1H), 4.07–4.14 (m, 3H), 3.55 (m, 2H), 2.09 (m, 1H), 1.84–1.88 (m, 3H), 1.67–1.72 (m, 1H), 1.51–1.55 (m, 1H), 0.78 (m, 1H), 0.42 (m, 2H), 0.06–0.11 (m, 2H).

reactant | N-{tert-butoxycarbonyl}-3-cyclopropyl-D-alanyl-N-[5-fluoro-2-{1H-1,2,4-triazol-1-yl }benzyl]-L-prolinamide | 0.069 mmol, 35 mg | C(C)(C)(C)OC(=O)N[C@H](CC1CC1)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)F)N2N=CN=C2)CCC1 | C25H33FN6O4
reactant | HCl EtOAc | 3.5N, 1 mL | Cl.CCOC(=O)C
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
product | 3-Cyclopropyl-D-alanyl-N-[5-fluoro-2-{1H-1,2,4-triazol-1-yl}benzyl]-L-prolinamide | 22 mg | C1(CC1)C[C@@H](N)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)F)N2N=CN=C2)CCC1 | C20H25FN6O2
